* hitkit post processing done
************************************************************************
* auCdl Netlist:
* 
* Library Name:  Potentiostat
* Top Cell Name: 6_Resnet
* View Name:     schematic
* Netlisted on:  May 26 21:27:44 2026
************************************************************************

*.EQUATION
*.LDD
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: Potentiostat
* Cell Name:    Inverter
* View Name:    schematic
************************************************************************

.SUBCKT Inverter A GNDA Q VDDA
*.PININFO A:B GNDA:B Q:B VDDA:B
MM_i_0 Q A GNDA GNDA nmos4 W=0.4u L=0.35u M=1
MM_i_1 Q A VDDA VDDA pmos4 W=0.7u M=1 L=0.35u
.ENDS

************************************************************************
* Library Name: Potentiostat
* Cell Name:    6_Resnet
* View Name:    schematic
************************************************************************

.SUBCKT 6_Resnet GNDA In Out S<3> S<2> S<1> S<0> VDDA
*.PININFO GNDA:B In:B Out:B S<3>:B S<2>:B S<1>:B S<0>:B VDDA:B
MMN19 In S<0> net5 GNDA nmos4 M=2 L=1u W=5u
MMN20 In S<1> net3 GNDA nmos4 W=5u L=1u M=1
MMN15 In S<2> net1 GNDA nmos4 W=5u L=1u M=1
MMN17 In S<3> net12 GNDA nmos4 W=5u L=1u M=1
MMP14 net5 S0n In VDDA pmos4 W=2u M=1 L=1u
MMP15 net3 S1n In VDDA pmos4 M=1 L=1u W=2u
MMP5 net1 S2n In VDDA pmos4 M=1 L=1u W=2u
MMP3 net12 S3n In VDDA pmos4 M=1 L=1u W=2u
XI11 S<1> GNDA S1n VDDA / Inverter isoVoltagePW="isoVoltagePW=-7" isoVoltage="isoVoltage=50"
+ isoType="isoType=1"
XI13 S<3> GNDA S3n VDDA / Inverter isoVoltagePW="isoVoltagePW=-7" isoVoltage="isoVoltage=50"
+ isoType="isoType=1"
XI6 S<0> GNDA S0n VDDA / Inverter isoVoltagePW="isoVoltagePW=-7" isoVoltage="isoVoltage=50"
+ isoType="isoType=1"
XI12 S<2> GNDA S2n VDDA / Inverter isoVoltagePW="isoVoltagePW=-7" isoVoltage="isoVoltage=50"
+ isoType="isoType=1"
RR17 net7 net2 $[RPOLYH] $L=500u $W=0.8u
RR5 net3 Out $[RPOLYH] $W=0.8u $L=500u
RR11 net23 net21 $[RPOLYH] $L=500u $W=0.8u
RR14 net22 net6 $[RPOLYH] $L=500u $W=0.8u
RR10 net12 net23 $[RPOLYH] $W=0.8u $L=500u
RR13 net20 net22 $[RPOLYH] $W=0.8u $L=500u
RR12 net21 net20 $[RPOLYH] $W=0.8u $L=500u
RR22 net10 Out $[RPOLYH] $L=500u $W=0.8u
RR16 net4 net7 $[RPOLYH] $W=0.8u $L=500u
RR15 net6 net4 $[RPOLYH] $L=500u $W=0.8u
RR21 net8 net9 $[RPOLYH] $W=0.8u $L=500u
RR18 net2 net10 $[RPOLYH] $W=0.8u $L=500u
RR20 net9 Out $[RPOLYH] $W=0.8u $L=500u
RR19 net1 net8 $[RPOLYH] $L=500u $W=0.8u
RR6 net5 Out $[RPOLYH] $W=0.8u $L=150u
.ENDS

